US06825317B2
Step 1: Z-L-Phe-D-Pro-OtBu
Z-L-Phe-OH (2.25 g, 7.5 mmol) and H-D-Pro-OtBu (0.862 g, 5.0 mmol) were dissolved in DMF (10 ml), mixed with HOBt H2O (766 mg, 5.0 mmol), BOP (3.3 g, 7.5 mmol) and triethylamine (1.75 ml, 12.5 mmol) under ice cooling, and then stirred for 2 hours. After the reaction mixture was concentrated, it was re-dissolved in ethyl acetate and washed sequentially with 10% citric acid, 4% NaHCO3 and brine. After drying over anhydrous MgSO4 and concentrating, the oily residue was purified by flash chromatography on silica gel (CHCl3/MeOH=99/1) to yield 1.403 g (62%) of the titled compound as an oil.

reactant | Z-L-Phe-OH | 7.5 mmol, 2.25 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | H-D-Pro-OtBu | 5.0 mmol, 0.862 g | N1[C@@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
reactant | HOBt H2O | 5.0 mmol, 766 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | BOP | 7.5 mmol, 3.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 12.5 mmol, 1.75 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Z-L-Phe-D-Pro-OtBu | 1.403 g, 62% | N([C@@H](CC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C26H32N2O5
